US04224317
To 41.4 g. (0.1 mole) of 1,3-bis-iodomethyl-1,1,3,3-tetramethyl-disiloxane there is added dropwise with stirring 32.4 g. (0.3 mole) of 2-aminomethyl-pyridine while maintaining the temperature at 20° C. Stirring is continued at room temperature for 24 hours. The now heterogeneous mixture is combined with approximately 0.5 l. of toluene followed by approximately 0.5 l. of water. The equilibrated aqueous phase is then extracted with two 100 ml. portions of toluene. The combined organic phase is then washed twice with approximately 100 ml. of water to give 4-(2-pyridylmethyl)-2,2,6,6-tetramethyl-1-oxa-4-aza-2,6-disilacyclohexane as the crude free base.

reactant | 1,3-bis-iodomethyl-1,1,3,3-tetramethyl-disiloxane | 0.1 mole | IC[Si](O[Si](C)(C)CI)(C)C | C6H16I2OSi2
reactant | 2-aminomethyl-pyridine | 0.3 mole | NCC1=NC=CC=C1 | C6H8N2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 4-(2-pyridylmethyl)-2,2,6,6-tetramethyl-1-oxa-4-aza-2,6-disilacyclohexane | N1=C(C=CC=C1)CN1C[Si](O[Si](C1)(C)C)(C)C | C12H22N2OSi2
